US08258144B2
To a mixture of 1-(methylsulfonylmethyl)-4-nitrobenzene (1.5 g, 7 mmol) in EtOH (20 mL) and H2O (10 mL) was added iron (1.96 g, 35 mmol) and ammonium formate (4.41 g, 70 mmol). After heating at 90° C. for 2 h, it was diluted with EtOAc, washed with saturated NaHCO3, brine, dried and concentrated to give 4-(methylsulfonylmethyl)aniline (0.5 g).

reactant | 1-(methylsulfonylmethyl)-4-nitrobenzene | 7 mmol, 1.5 g | CS(=O)(=O)CC1=CC=C(C=C1)[N+](=O)[O-] | C8H9NO4S
reactant | ammonium formate | 70 mmol, 4.41 g | C(=O)[O-].[NH4+]
solvent | EtOH | 20 mL | CCO | C2H6O
solvent | H2O | 10 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | iron | 35 mmol, 1.96 g | [Fe] | Fe
product | 4-(methylsulfonylmethyl)aniline | 0.5 g | CS(=O)(=O)CC1=CC=C(N)C=C1 | C8H11NO2S
